US05137564
Ethyl (2-Methylphenyl)(4,6-dimethoxypyrimidin-2-yl)acetate
n-Butyllithium (10 ml of 2N solution in pentane) was added dropwise to a stirred solution of di-isopropylamine (2.0 g) in dry tetrahydrofuran (40 ml) under nitrogen at -10° C. After stirring at this temperature for 15 minutes, the solution was cooled to -75° C., and a solution of ethyl (2-methylphenyl)acetate (3.56 g) in tetrahydrofuran (20 ml) was added dropwise. After stirring at -75° C. for one hour, 4,6-dimethoxy-2-(methylsulphonyl)pyrimidine (4.36 g) was added in one portion, and the resulting suspension was allowed to warm slowly to room temperature before stirring overnight. The reaction mixture was then poured onto water (400 ml) and the resulting oil was extracted into ether (2×150 ml). The combined extracts were washed with saturated sodium chloride solution, dried over magnesium sulphate and evaporated to give a yellow oil which was purified by chromatography to give 3.8 g of the desired product as a colourless oil.

reactant | n-Butyllithium | 2N, 10 ml | C(CCC)[Li]
reactant | di-isopropylamine | 2.0 g | C(C)(C)NC(C)C | C6H15N
reactant | ethyl (2-methylphenyl)acetate | 3.56 g | CC1=C(C=CC=C1)CC(=O)OCC | C11H14O2
reactant | 4,6-dimethoxy-2-(methylsulphonyl)pyrimidine | 4.36 g | COC1=NC(=NC(=C1)OC)S(=O)(=O)C | C7H10N2O4S
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | Ethyl (2-Methylphenyl)(4,6-dimethoxypyrimidin-2-yl)acetate | 3.8 g | CC1=C(C=CC=C1)C(C(=O)OCC)C1=NC(=CC(=N1)OC)OC | C17H20N2O4
